US08212045B2
A flask was charged with 2,4-dioxopentan-3-yl benzoate (82.59 g, 375.0 mmol) and ethanol (1.5 L) was added. Methylhydrazine (39.90 ml, 750.1 mmol) in ethanol (150 mL) was added, and the reaction was stirred at ambient temperature for 2 hours, then concentrated in vacuo to afford 1,3,5-trimethyl-1H-pyrazol-4-yl benzoate (80 g, 92.6% yield).

reactant | 2,4-dioxopentan-3-yl benzoate | 375.0 mmol, 82.59 g | C(C1=CC=CC=C1)(=O)OC(C(C)=O)C(C)=O | C12H12O4
reactant | Methylhydrazine | 750.1 mmol, 39.90 ml | CNN | CH6N2
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethanol | 1.5 L | C(C)O | C2H6O
product | 1,3,5-trimethyl-1H-pyrazol-4-yl benzoate | 80 g, 92.6% yield | C(C1=CC=CC=C1)(=O)OC=1C(=NN(C1C)C)C | C13H14N2O2
